US06596772B1
2,5-Bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-terephthalic acid diethyl ester (54).
A mixture of diethyl 2,5-dihydroxyterephthalate (127 mg, 0.5 mmol) and sodium hydride (60%, 20 mg) in tetrahydrofuran (1.5 mL) was stirred at room temperature for 30 minutes followed by the addition of 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene (75 mg, 0.26 mmol). After 45 mintues, more 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene (63 mg, 0.22 mmol) was added. Tetrahydrofuran (1 mL) was added after each addition of 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene. After 18 hours at room temperature, more 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene (75 mg) was added and the temperature was increased to 60° C. for 2 hours. The reaction was diluted with chloroform/isopropanol, washed with brine and purified on silica gel to give the title compound. 1H NMR (360 MHz, DMSO-d6) δ 8.82 (d, J=2.2 Hz, 2H), 8.27 (dd, 2H), 8.18 (s, 2H), 7.48 (d, J=9 Hz, 2H), 4.15 (q, J=6.8 Hz, 4H), 0.98 (t, J=6.8 Hz, 6H).

reactant | diethyl 2,5-dihydroxyterephthalate | 0.5 mmol, 127 mg | OC1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)O | C12H14O6
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene | 0.26 mmol, 75 mg | ClC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO4S
reactant | 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene | 0.22 mmol, 63 mg | ClC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO4S
reactant | 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene | 75 mg | ClC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO4S
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | Tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2,5-Bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-terephthalic acid diethyl ester | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])=O | C26H18F6N2O14S2
